US06528504B2
(R)-2-Hydroxymethyl-1-(3-methoxyphenethyl)piperidine (322 mg, 1.28 mmol) was dissolved in 10 ml of dichloromethane. Triethylamine (170 mg, 1.68 mmol) and methanesulfonyl chloride (192 mg, 1.68 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred under cooling on ice for 1 hour and then at room temperature for 18 hours. The reaction liquid was distributed in dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(3-methoxyphenethyl)homopiperidine in the form of a light yellow oil (182 mg, 53%).

reactant | (R)-2-Hydroxymethyl-1-(3-methoxyphenethyl)piperidine | 1.28 mmol, 322 mg | OC[C@@H]1N(CCCC1)CCC1=CC(=CC=C1)OC | C15H23NO2
reactant | Triethylamine | 1.68 mmol, 170 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.68 mmol, 192 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-3-chloro-1-(3-methoxyphenethyl)homopiperidine | Cl[C@H]1CN(CCCC1)CCC1=CC(=CC=C1)OC | C15H22ClNO
